US04735940
4.95 g of 5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepin-8-one were added under argon to 2.35 g of N-chlorosuccinimide in 50 ml of carbon tetrachloride. The mixture was stirred at room temperature for 2.5 hours, treated with an additional 0.21 g of N-chlorosuccinimide and stirred for an additional 1 hour. After evaporation in vacuo, the residue was chromatographed on silica gel. By recrystallization from acetonitrile, there was obtained 11-chloro-5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]-thieno[2,3-f][1,4]thiazepin-8-one as yellow crystals of m.p. 179°.

reactant | 5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepin-8-one | 4.95 g | C1(=CC=CC=C1)C1=CC=C2N(CCSC3=C2SC=C3)C1=O | C17H13NOS2
reactant | N-chlorosuccinimide | 2.35 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 0.21 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 11-chloro-5,6-dihydro-9-phenyl-8H-pyrido[1,2-d]-thieno[2,3-f][1,4]thiazepin-8-one | ClC=1C=C(C(N2CCSC3=C(C21)SC=C3)=O)C3=CC=CC=C3 | C17H12ClNOS2
